US08497265B2
Preparation P28.1: Tert-Butyl 4-((3-(3,6-Dihydro-2H-Pyran-4-yl)Pyridin-2-yl)Oxy)Piperidine-1-Carboxylate
To a solution tert-butyl 4-((3-bromopyridin-2-yl)oxy)piperidine-1-carboxylate (see PREPARATION P20.4; 4 g, 11.2 mmol), 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.58 g, 12.4 mmol) and Na2CO3 (2.38 g, 22.4 mmol) in 1,4-dioxane (60 mL) and H2O (6 mL) was added Pd(dppf)Cl2 (410 mg, 0.56 mmol) then the reaction mixture was stirred at 110° C. under N2 for overnight. The reaction mixture was filtered through CELITE® and washed with CH2Cl2. The organic layer was concentrated and the crude product was purified by silica gel column to give the desired compound (3.5 g, 8.7 mmol, yield 70%).

reactant | tert-butyl 4-((3-bromopyridin-2-yl)oxy)piperidine-1-carboxylate | 11.2 mmol, 4 g | BrC=1C(=NC=CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C15H21BrN2O3
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 12.4 mmol, 2.58 g | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | Na2CO3 | 22.4 mmol, 2.38 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 6 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.56 mmol, 410 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Tert-Butyl 4-((3-(3,6-Dihydro-2H-Pyran-4-yl)Pyridin-2-yl)Oxy)Piperidine-1-Carboxylate | 8.7 mmol, 3.5 g, yield 70% | O1CCC(=CC1)C=1C(=NC=CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C20H28N2O4
